US06642229B2
3-Bromo-7-cyclobutylimidazo[1,2-a]pyrimidine was coupled with 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 3′-(7-cyclobutylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile as a white powder: δH (400 MHz, CDCl3) 1.90-2.55 (6H, m), 3.77 (1H, quintet, J 8), 6.83 (1H, d, J 7), 7.48-7.75 (7H, m), 7.82 (1H, dd, J 8 and 1), 7.86 (1H, s), 8.85 (1H, d, J 7); m/z (ES+) 351 (M++H).

reactant | 3-Bromo-7-cyclobutylimidazo[1,2-a]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C2CCC2 | C10H10BrN3
reactant | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
product | 3′-(7-cyclobutylimidazo[1,2-a]pyrimidin-3-yl)biphenyl-2-carbonitrile | C1(CCC1)C1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C23H18N4
